Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[c:3](=[O:4])[c:5](-[c:6]2[cH:7][cH:8][cH:9][c:10]([CH:11]([F:12])[F:13])[cH:14]2)[c:15]([CH3:16])[n:17]([CH:18]2[CH2:19][CH2:20][CH2:21][CH2:22]2)[cH:23]1)=[O:24].[CH3:25][c:26]1[n:27][n:28][c:29]([CH2:30][NH2:31])[o:32]1>>[C:1]([c:2]1[c:3](=[O:4])[c:5](-[c:6]2[cH:7][cH:8][cH:9][c:10]([CH:11]([F:12])[F:13])[cH:14]2)[c:15]([CH3:16])[n:17]([CH:18]2[CH2:19][CH2:20][CH2:21][CH2:22]2)[cH:23]1)(=[O:24])[NH:31][CH2:30][c:29]1[n:28][n:27][c:26]([CH3:25])[o:32]1,[OH:101][C:1]([c:2]1[c:3](=[O:4])[c:5](-[c:6]2[cH:7][cH:8][cH:9][c:10]([CH:11]([F:12])[F:13])[cH:14]2)[c:15]([CH3:16])[n:17]([CH:18]2[CH2:19][CH2:20][CH2:21][CH2:22]2)[cH:23]1)=[O:24].[CH3:25][c:26]1[n:27][n:28][c:29]([CH2:30][NH2:31])[o:32]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3](=[O:4])[c:5](-[c:6]2[cH:7][cH:8][cH:9][c:10]([CH:11]([F:12])[F:13])[cH:14]2)[c:15]([CH3:16])[n:17]([CH:18]2[CH2:19][CH2:20][CH2:21][CH2:22]2)[cH:23]1)(=[O:24])[NH:31][CH2:30][c:29]1[n:28][n:27][c:26]([CH3:25])[o:32]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (31, 1), ([1, 24], 24), (303, 31.1), ([31.1, 31], 31), (24, [24, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[cH:2][cH:3][c:4]([C:5](=[O:6])[NH:7][CH2:8][c:9]2[cH:10][n:11](-[c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[c:18]3[cH:19][c:20]([Cl:21])[cH:22][cH:23][c:24]3[c:25]2=[O:26])[cH:27][n:28]1.[CH3:29][N:30]1[CH2:31][CH2:32][CH2:33][NH:34][CH2:35][CH2:36]1>>[c:1]1([N:34]2[CH2:33][CH2:32][CH2:31][N:30]([CH3:29])[CH2:36][CH2:35]2)[cH:2][cH:3][c:4]([C:5](=[O:6])[NH:7][CH2:8][c:9]2[cH:10][n:11](-[c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[c:18]3[cH:19][c:20]([Cl:21])[cH:22][cH:23][c:24]3[c:25]2=[O:26])[cH:27][n:28]1,[Cl:101][c:1]1[cH:2][cH:3][c:4]([C:5](=[O:6])[NH:7][CH2:8][c:9]2[cH:10][n:11](-[c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[c:18]3[cH:19][c:20]([Cl:21])[cH:22][cH:23][c:24]3[c:25]2=[O:26])[cH:27][n:28]1.[CH3:29][N:30]1[CH2:31][CH2:32][CH2:33][NH:34][CH2:35][CH2:36]1>>[c:1]1([N:34]2[CH2:33][CH2:32][CH2:31][N:30]([CH3:29])[CH2:36][CH2:35]2)[cH:2][cH:3][c:4]([C:5](=[O:6])[NH:7][CH2:8][c:9]2[cH:10][n:11](-[c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[c:18]3[cH:19][c:20]([Cl:21])[cH:22][cH:23][c:24]3[c:25]2=[O:26])[cH:27][n:28]1,SNAr(para),"[(34, 1), ([1, 28], [28, 27]), ([27, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 27]), ([27, 28], [28, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[c:3]([NH:4][C:5]([c:6]2[cH:7][cH:8][c:9]([O:10][CH3:11])[c:12]([Cl:13])[cH:14]2)=[O:15])[cH:16][cH:17][cH:18][cH:19]1)=[O:20].[NH2:21][CH2:22][CH2:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[C:1]([c:2]1[c:3]([NH:4][C:5]([c:6]2[cH:7][cH:8][c:9]([O:10][CH3:11])[c:12]([Cl:13])[cH:14]2)=[O:15])[cH:16][cH:17][cH:18][cH:19]1)(=[O:20])[NH:21][CH2:22][CH2:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,[OH:101][C:1]([c:2]1[c:3]([NH:4][C:5]([c:6]2[cH:7][cH:8][c:9]([O:10][CH3:11])[c:12]([Cl:13])[cH:14]2)=[O:15])[cH:16][cH:17][cH:18][cH:19]1)=[O:20].[NH2:21][CH2:22][CH2:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3]([NH:4][C:5]([c:6]2[cH:7][cH:8][c:9]([O:10][CH3:11])[c:12]([Cl:13])[cH:14]2)=[O:15])[cH:16][cH:17][cH:18][cH:19]1)(=[O:20])[NH:21][CH2:22][CH2:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (21, 1), ([1, 20], 20), (303, 21.1), ([21.1, 21], 21), (20, [20, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7]([Cl:8])[cH:9]1.[CH3:10][CH:11]([CH3:12])[C:13](=[O:14])[NH:15][c:16]1[cH:17][cH:18][cH:19][c:20]([CH:21]2[CH2:22][CH2:23][N:24]([CH2:25][CH2:26][CH2:27][CH2:28][NH2:29])[CH2:30][CH2:31]2)[cH:32]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7]([Cl:8])[cH:9]1)[NH:29][CH2:28][CH2:27][CH2:26][CH2:25][N:24]1[CH2:23][CH2:22][CH:21]([c:20]2[cH:19][cH:18][cH:17][c:16]([NH:15][C:13]([CH:11]([CH3:10])[CH3:12])=[O:14])[cH:32]2)[CH2:31][CH2:30]1,[CH3:10][CH:11]([CH3:12])[C:13](=[O:14])[NH:15][c:16]1[cH:17][cH:18][cH:19][c:20]([CH:21]2[CH2:22][CH2:23][N:24]([CH2:25][CH2:26][CH2:27][CH2:28][NH2:29])[CH2:30][CH2:31]2)[cH:32]1.[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7]([Cl:8])[cH:9]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7]([Cl:8])[cH:9]1)[NH:29][CH2:28][CH2:27][CH2:26][CH2:25][N:24]1[CH2:23][CH2:22][CH:21]([c:20]2[cH:19][cH:18][cH:17][c:16]([NH:15][C:13]([CH:11]([CH3:10])[CH3:12])=[O:14])[cH:32]2)[CH2:31][CH2:30]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(29, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
